* EML Stage-B: MDAC unit current-mirror mismatch (nfet_g5v0d10v5, 3.3V rail)
* 1:1 NMOS mirror; sigma(Iout/Iin) across MC samples, vs device size and
* branch current. Sets the MDAC unit-device size for a given weight-error
* budget (fabric_sim run 3 assumed 2% gain sigma).
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt_mm

.param wval=1 lval=2 iin=1u

IIN vdd g  {iin}
VDD vdd 0  3.3
XM1 g g 0 0 sky130_fd_pr__nfet_g5v0d10v5 W={wval} L={lval}
XM2 d g 0 0 sky130_fd_pr__nfet_g5v0d10v5 W={wval} L={lval}
VD  vd 0 1.65
VMEAS vd d 0

.control
set filetype=ascii
echo > mirror_mc.txt
foreach w 1 2 4 8
  alterparam wval = $w
  foreach ii 100n 1u 10u
    alterparam iin = $ii
    let idx = 0
    dowhile idx < 80
      reset
      op
      echo $w $ii $&i(VMEAS) >> mirror_mc.txt
      let idx = idx + 1
    end
  end
end
echo MC_DONE
.endc
.end
